US06169185A
2-(2′-Carboxybenzoyl)-5-diethylaminophenol was prepared as follows. A mixture of m-diethylaminophenol (1 mole) and phthalic anhydride (1.2 moles) was refluxed in toluene (2.0 L) for about 16 hours, cooled, and the resulting solid filtered, washed with toluene and dried to give 2-(2′-carboxybenzoyl)-5-diethylaminophenol in 70% yield.

reactant | m-diethylaminophenol | 1 mole | C(C)N(C=1C=C(C=CC1)O)CC | C10H15NO
reactant | phthalic anhydride | 1.2 moles | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | toluene | 2.0 L | C1(=CC=CC=C1)C | C7H8
product | 2-(2′-carboxybenzoyl)-5-diethylaminophenol | C(=O)(O)C1=C(C(=O)C2=C(C=C(C=C2)N(CC)CC)O)C=CC=C1 | C18H19NO4
